US08217069B2
5-Carboxy-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a mixture of 5-(n-butoxycarbonyl)-3-[2-fluoro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.11 g), tetrahydrofuran (2 mL), methanol (1 mL) and water (1 mL) was added lithium hydroxide monohydrate (43 mg), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with 10% aqueous sodium chloride solution and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2−ethyl acetate) to give the title compound (23 mg).

reactant | 5-(n-butoxycarbonyl)-3-[2-fluoro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.11 g | C(CCC)OC(=O)C1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OC)F | C26H24F3N3O6
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 43 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 5-Carboxy-3-[2-fluoro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 23 mg | C(=O)(O)C1=CC=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)OCC2=C(C(=CC=C2OC)F)F)OC)F | C22H16F3N3O6
